US04927838
(E)-3-(1-Butyl-4-methoxy-2-naphthalenyl)-2-propenoic acid methyl ester
As in Example 111, 1-butyl-4-methoxy-2-naphthalenecarboxaldehyde (4.05 g) and (carbomethoxymethylene)triphenylphosphorane (6 g) in dichloromethane (40 mL) was stirred at room temperature for 42 hours. Crystallization of the crude reaction product from the normal work up gave 4.1 g of (E)-3-(1-butyl-4-methoxy-2-naphthalenyl)-2-propenoic acid methyl ester, mp 63°-64° C. Anal. Calcd for C19H22O3 : C, 76.48; H, 7.43 Found: C, 75.89; H, 7.26

reactant | 1-butyl-4-methoxy-2-naphthalenecarboxaldehyde | 4.05 g | C(CCC)C1=C(C=C(C2=CC=CC=C12)OC)C=O | C16H18O2
reactant | (carbomethoxymethylene)triphenylphosphorane | 6 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (E)-3-(1-Butyl-4-methoxy-2-naphthalenyl)-2-propenoic acid methyl ester | COC(\C=C\C1=C(C2=CC=CC=C2C(=C1)OC)CCCC)=O | C19H22O3
